data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:2]1=[CH:6][c:7]2[cH:14][cH:13][cH:22][cH:9][c:15]2[CH:23]1[Na:19].[N+:1]([c:10]1[cH:3][n:8][c:12]2[c:16]([n+:5]([O-:4])[o:11][n:21]2)[cH:17]1)(=[O:18])[O-:20]>>[N+:1](=[C:10]1[CH:3]=[N:8][c:12]2[c:16]([n+:5]([O-:4])[o:11][n:21]2)[CH:17]1[CH:23]1[CH:2]=[CH:6][c:7]2[cH:14][cH:13][cH:22][cH:9][c:15]21)([O-:18])[O-:20].[Na+:19]", "epd": [["Sigma-/Sigma+", [23, 19], [23, 17]], ["Pi-/Pi+", [17, 10], [10, 1]], ["Pi-/LP+", [1, 18], [18]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:3]([CH:12]1[N+:17](=[CH:5][CH:34]=[CH:13][c:25]2[cH:7][cH:19][cH:4][cH:20][cH:8]2)[CH:16]([CH2:36][c:29]2[cH:41][cH:14][cH:22][cH:15][cH:42]2)[C:24](=[O:9])[N:31]1[CH3:23])([CH3:26])([CH3:27])[CH3:28].[cH:1]1[c:38]([CH:18]=[C:30]2[S:10][c:35]3[cH:32][cH:11][cH:21][cH:6][c:33]3[N:44]2[CH3:37])[cH:2][cH:40][cH:43][cH:39]1>>[cH:1]1[c:38]([CH:18]([CH:13]([c:25]2[cH:7][cH:19][cH:4][cH:20][cH:8]2)[CH:34]=[CH:5][N:17]2[CH:12]([C:3]([CH3:26])([CH3:27])[CH3:28])[N:31]([CH3:23])[C:24](=[O:9])[CH:16]2[CH2:36][c:29]2[cH:41][cH:14][cH:22][cH:15][cH:42]2)[c:30]2[s:10][c:35]3[cH:32][cH:11][cH:21][cH:6][c:33]3[n+:44]2[CH3:37])[cH:2][cH:40][cH:43][cH:39]1", "epd": [["LP-/Pi+", [44], [30, 44]], ["Pi-/Sigma+", [18, 30], [18, 13]], ["Pi-/Pi+", [13, 34], [34, 5]], ["Pi-/LP+", [5, 17], [17]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH3:1][CH:7]([CH3:2])[N+:15]1=[N:16][N:14]([CH:3]([CH3:18])[CH3:19])[C:21](=[CH2:13])[C-:4]1[C:6]([CH3:22])([CH3:23])[CH3:24].[CH:5](=[O+:20][CH3:17])[c:25]1[cH:11][cH:9][cH:8][cH:10][cH:12]1>>[CH3:1][CH:7]([CH3:2])[n+:15]1[c:4]([C:6]([CH3:22])([CH3:23])[CH3:24])[c:21]([CH2:13][CH:5]([O:20][CH3:17])[c:25]2[cH:11][cH:9][cH:8][cH:10][cH:12]2)[n:14]([CH:3]([CH3:18])[CH3:19])[n:16]1", "epd": [["LP-/Pi+", [4], [21, 4]], ["Pi-/Sigma+", [13, 21], [13, 5]], ["Pi-/LP+", [5, 20], [20]]]}
{"reaction_name": "Steroidal cation rearrangement", "rsmi": "[H:1][C:6]12[CH2:4][CH2:9][C+:14]([CH3:11])[C:15]([H:7])([H:8])[C:10]1([H:12])[C:5]([CH3:2])([CH3:3])[CH2:16][CH2:13]2>>[H:1][C:10]12[C:5]([CH3:2])([CH3:3])[CH2:16][CH2:13][C+:6]1[CH2:4][CH2:9][C:14]([H:7])([CH3:11])[C:15]2([H:8])[H:12]", "epd": [["Sigma-/Sigma+", [10, 12], [12, 15]], ["Sigma-/Sigma+", [1, 6], [1, 10]], ["Sigma-/Sigma+", [7, 15], [7, 14]]]}
{"reaction_name": "Cationic polycyclization cascade", "rsmi": "[CH2:1]=[C:2]([CH3:3])[CH2:4][CH2:5][CH2:6][C:7]([CH3:8])=[CH2:9].[H+:10]>>[CH2:1]([H:10])[C:2]1([CH3:3])[CH2:4][CH2:5][CH2:6][C:7]1([CH3:8])[CH2+:9]", "epd": [["Pi-/Sigma+", [7, 9], [2, 7]], ["Pi-/Sigma+", [1, 2], [1, 10]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:12]1[cH:4][n:11][c:20]2[c:24]([n+:7]([O-:6])[o:15][n:42]2)[cH:25]1)(=[O:27])[O-:36].[cH:2]1[cH:21][cH:30][c:37]([N:23]2[C:5](=[C:26]([c:3]3[cH:13][cH:38][cH:8][cH:39][cH:14]3)[O:9][CH3:40])[N:10]([c:45]3[cH:18][cH:33][cH:29][cH:34][cH:19]3)[N:41]=[C:32]2[c:28]2[cH:43][cH:16][cH:35][cH:17][cH:44]2)[cH:31][cH:22]1>>[N+:1](=[C:12]1[CH:4]=[N:11][c:20]2[c:24]([n+:7]([O-:6])[o:15][n:42]2)[CH:25]1[C:26]([c:3]1[cH:13][cH:38][cH:8][cH:39][cH:14]1)([c:5]1[n+:10](-[c:45]2[cH:18][cH:33][cH:29][cH:34][cH:19]2)[n:41][c:32](-[c:28]2[cH:43][cH:16][cH:35][cH:17][cH:44]2)[n:23]1-[c:37]1[cH:30][cH:21][cH:2][cH:22][cH:31]1)[O:9][CH3:40])([O-:27])[O-:36]", "epd": [["LP-/Pi+", [10], [5, 10]], ["Pi-/Sigma+", [26, 5], [26, 25]], ["Pi-/Pi+", [25, 12], [12, 1]], ["Pi-/LP+", [1, 27], [27]]]}
{"reaction_name": "Arbuzov rearrangement", "rsmi": "[CH3:1][Br:8].[CH3:2][O:5][P:9]([O:6][CH3:3])[O:7][CH3:4]>>[CH3:1][P:9](=[O:5])([O:6][CH3:3])[O:7][CH3:4].[CH3:2][Br:8]", "epd": [["LP-/Sigma+", [9], [1, 9]], ["Sigma-/LP+", [1, 8], [8]], ["LP-/Sigma+", [8], [2, 8]], ["Sigma-/LP+", [2, 5], [5]], ["LP-/Pi+", [5], [5, 9]]]}
{"reaction_name": "Fmoc protection", "rsmi": "[CH3:10][CH2:22][O:11][H:14].[cH:1]1[cH:5][cH:3][c:12]2[c:15]([cH:20]1)[CH:18]([CH2:7][O:8][C:17]([Cl:9])=[O:19])[c:16]1[c:13]-2[cH:4][cH:6][cH:2][cH:21]1>>[Cl:9][H:14].[cH:1]1[cH:5][cH:3][c:12]2[c:15]([cH:20]1)[CH:18]([CH2:7][O:8][C:17]([O:11][CH2:22][CH3:10])=[O:19])[c:16]1[c:13]-2[cH:4][cH:6][cH:2][cH:21]1", "epd": [["LP-/Sigma+", [11], [11, 17]], ["Pi-/LP+", [17, 19], [19]], ["LP-/Pi+", [19], [17, 19]], ["Sigma-/LP+", [9, 17], [9]], ["LP-/Sigma+", [9], [9, 14]], ["Sigma-/LP+", [11, 14], [11]]]}
